US07612114B2
To a solution of 4-bromonaphthalen-1-ol (1.1 g) in N,N-dimethylformamide (30 ml) were sequentially added potassium carbonate (1.0 g) and 1-(2-chloroethyl)piperidine (1.1 g), and the solution was stirred for 1 hour at 60° C. Water was added thereto followed by stirring, the solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and the solvent was then evaporated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate system) to obtain 1-[2-(4-bromonaphthalen-1-yloxy)ethyl]piperidine (1.59 g). This compound (800 mg) was used according to an analogous synthetic method to Preparation Example 51 to provide the title compound (518 mg).

reactant | 4-bromonaphthalen-1-ol | 1.1 g | BrC1=CC=C(C2=CC=CC=C12)O | C10H7BrO
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-chloroethyl)piperidine | 1.1 g | ClCCN1CCCCC1 | C7H14ClN
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-[2-(4-bromonaphthalen-1-yloxy)ethyl]piperidine | 1.59 g | BrC1=CC=C(C2=CC=CC=C12)OCCN1CCCCC1 | C17H20BrNO
